US08648038B2
2-(1-{4-[2-(3-tert-Butylphenoxy)propionylamino]phenyl}but-2-ynyl)malonic Acid
A solution of 323 mg (0.67 mmol) of dimethyl 2-(1-{4-[2-(3-tert-butylphenoxy)-propionylamino]phenyl}but-2-ynyl)malonate in 7 ml of acetonitrile and 6.7 ml of 1 N sodium hydroxide solution (aq) was stirred at room temperature for 18 h. The reaction mixture was admixed with water and adjusted to pH=1 with 1 N HCl (aq) and then extracted with ethyl acetate. The organic phase was dried over MgSO4, filtered and concentrated under high vacuum. This gave 304 mg of 2-(1-{4-[2-(3-tert-butylphenoxy)propionylamino]phenyl}but-2-ynyl)malonic acid in quantitative yield.

reactant | dimethyl 2-(1-{4-[2-(3-tert-butylphenoxy)-propionylamino]phenyl}but-2-ynyl)malonate | 0.67 mmol, 323 mg | C(C)(C)(C)C=1C=C(OC(C(=O)NC2=CC=C(C=C2)C(C#CC)C(C(=O)OC)C(=O)OC)C)C=CC1 | C28H33NO6
reactant | water | O | H2O
reactant | HCl | 1 N | Cl | ClH
solvent | acetonitrile | 7 ml | C(C)#N | C2H3N
solvent | sodium hydroxide | 1 N, 6.7 ml | [OH-].[Na+]
product | 2-(1-{4-[2-(3-tert-Butylphenoxy)propionylamino]phenyl}but-2-ynyl)malonic Acid | quantitative yield | C(C)(C)(C)C=1C=C(OC(C(=O)NC2=CC=C(C=C2)C(C#CC)C(C(=O)O)C(=O)O)C)C=CC1 | C26H29NO6
